US09399636B2
A solution of piperidine-1,4-dicarboxylic acid 1-tert-butylester 4-ethyl ester (200 g, 0.78 mol, 1 equiv.) in dry tetrahydrofuran (350 mL) was added a 1M solution of sodium bis(trimethylsilyl)amide (1010 mL, 1.01 mol, 1.3 equiv.) drop-wise at 0° C. under nitrogen atmosphere. The reaction mixture was stirred for 1.5 h at 0° C. and added to a solution of 2-chloro-4-iodopyridine (199.2 g, 0.83 mol) in dry tetrahydrofuran (350 mL) at 0° C. under nitrogen atmosphere. The reaction mixture was kept at 0° C. for 3 hours, and was monitored by TLC (ethyl acetate/petroleum ether; 1/5). A solution of ammonium chloride (34.8 g) in water (260 mL) was added cautiously. The formed two layers were separated in a separation funnel. The organic layer was extracted, dried over anhydrous sodium sulfate and concentrated. The resulting dark oil was purified by flash chromatography on silica gel to obtain the oil 1-tert-butyl 4-ethyl 4-(2-chloropyridin-4-yl)piperidine-1,4-dicarboxylate (90 g, 32% yield).

reactant | piperidine-1,4-dicarboxylic acid 1-tert-butylester 4-ethyl ester | 0.78 mol, 200 g, 1 equiv. | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | sodium bis(trimethylsilyl)amide | 1.01 mol, 1010 mL, 1.3 equiv. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-chloro-4-iodopyridine | 0.83 mol, 199.2 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | ammonium chloride | 34.8 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | water | 260 mL | O | H2O
product | 1-tert-butyl 4-ethyl 4-(2-chloropyridin-4-yl)piperidine-1,4-dicarboxylate | 90 g, 32% yield | ClC1=NC=CC(=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C18H25ClN2O4
